US07902367B2
Step 94a) 5-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]carbonylamino]piperidin-1-yl]-2-methoxybenzaldehyde
Using N-(piperidin-3-yl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide (254 mg, 0.756 mmol) and 3-formyl-4-methoxyphenylboric acid (273 mg, 1.52 mmol), the same procedure was followed as in Example 2 to give 49.8 mg (14%) of the desired compound as a yellow powder.

reactant | N-(piperidin-3-yl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide | 0.756 mmol, 254 mg | N1CC(CCC1)NC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C16H18ClN3OS
reactant | 3-formyl-4-methoxyphenylboric acid | 1.52 mmol, 273 mg | C(=O)C=1C=C(C=CC1OC)OB(O)O | C8H9BO5
product | 5-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]carbonylamino]piperidin-1-yl]-2-methoxybenzaldehyde | 49.8 mg, 14% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)NC1CN(CCC1)C=1C=CC(=C(C=O)C1)OC | C24H24ClN3O3S
